US08476294B2
Stage 235.1.2 (5-Bromo-4-methoxy-pyrimidin-2-yl)-ethyl-amine
To a solution of 5-bromo-2-chloro-4-methoxypyrimidine (Frontier Scientific, Logan, USA, 0.895 mmol) in THF (2.5 ml) cooled with an ice-bath was added a 2 M solution of ethylamine in MeOH (Aldrich, Buchs, Switzerland, 0.492 ml). The RM was stirred at 0° C. for 1 h and at rt for 66 h then the reaction mixture was diluted with EtOAc, washed with saturated aqueous NaHCO3, with brine, dried over Na2SO4, filtered and evaporated. The residue was absorbed on silica gel and purified by flash chromatography (CH2Cl2/iPrOH 0% to 6%) to give after evaporation of the fractions containing the title compound an off-white solid. (HPLC: tR 2.16min (Method A); M+H=232, 234 MS-ES)

reactant | 5-bromo-2-chloro-4-methoxypyrimidine | 0.895 mmol | BrC=1C(=NC(=NC1)Cl)OC | C5H4BrClN2O
reactant | ethylamine | C(C)N | C2H7N
solvent | THF | 2.5 ml | C1CCOC1 | C4H8O
solvent | MeOH | 0.492 ml | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (5-Bromo-4-methoxy-pyrimidin-2-yl)-ethyl-amine | BrC=1C(=NC(=NC1)NCC)OC | C7H10BrN3O
